US07618978B2
2-(R)-(2-(R)-Amino-1-(S)-hydroxy-3-phenyl-propyl)-4-(5-methylhexanoyl)-piperazine-1-carboxylic acid tert-butyl ester
Dissolve 2-(R)-[2-(R)-(Benzhydrylideneamino)-1-(S)-hydroxy-3-phenyl-propyl]-4-(5-methylhexanoyl)-piperazine-1-carboxylic acid tert-butyl ester (103 mg, 0.17 mmol) in 2 ml of methanol and add palladium (10% on C, 30 mg). Stir under 1 atmosphere of H2 for 24 h and filter through celite, eluting with methanol. Concentrate to dryness to provide the title compound.

reactant | 2-(R)-[2-(R)-(Benzhydrylideneamino)-1-(S)-hydroxy-3-phenyl-propyl]-4-(5-methylhexanoyl)-piperazine-1-carboxylic acid tert-butyl ester | 0.17 mmol, 103 mg | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(CCCC(C)C)=O)[C@H]([C@@H](CC1=CC=CC=C1)N=C(C1=CC=CC=C1)C1=CC=CC=C1)O | C38H49N3O4
solvent | methanol | 2 ml | CO | CH4O
catalyst | palladium | 30 mg | [Pd] | Pd
product | 2-(R)-(2-(R)-Amino-1-(S)-hydroxy-3-phenyl-propyl)-4-(5-methylhexanoyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@H](CN(CC1)C(CCCC(C)C)=O)[C@H]([C@@H](CC1=CC=CC=C1)N)O | C25H41N3O4
